US05252426
Preparation of 4-Cyclohexylphenylhydrazine hydrochloride (Intermediate A)
To a slurry a 4-cyclohexylaniline (350.6 g) and ethanol (330 ml) in 30% HCl (1470 ml) was added a solution of sodium nitrite (151.8 g) in water (735 ml), while maintaining the temperature between -8 to -2° C. The reaction was stirred for an additional four hours at -2 to 10° C. A solution of tin (II) chloride dihydrate (1353.8 g) in 30% HCl (1470 ml) was added slowly, and the resulting white suspension was cooled overnight. The crude product was collected by vacuum filtration and washed with 1 N hydrochloric acid, and ether. Recrystallization in 6 L of methanol gave 300 g of the desired product as fine long needles, m.p. 251-254° C.

reactant | 4-cyclohexylaniline | 350.6 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | ethanol | 330 ml | C(C)O | C2H6O
reactant | sodium nitrite | 151.8 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride dihydrate | 1353.8 g | O.O.[Sn](Cl)Cl
solvent | HCl | 1470 ml | Cl | ClH
solvent | water | 735 ml | O | H2O
solvent | HCl | 1470 ml | Cl | ClH
product | 4-Cyclohexylphenylhydrazine hydrochloride | 300 g | Cl.C1(CCCCC1)C1=CC=C(C=C1)NN | InChI=1S/C12H18N2.ClH/c13-14-12-8-6-11(7-9-12)10-4-2-1-3-5-10;/h6-10,14H,1-5,13H2;1H
